US04555578
(2) α-(5-Mercapto-1H-tetrazol-1-yl)acetohydroxamic acid
To a mixed solvent of trifluoroacetic acid (15 ml) and anisole (15 ml) is added 5-mercapto-1H-tetrazole-1-acetohydroxamic acid p-methoxybenzyl ester (3 g), and the mixture is stirred at room temperature for 2 hours under nitrogen gas. The reaction mixture is concentrated under reduced pressure, and the resultant material is dissolved in water and passed through a column of synthetic resin adsorbent (Diaion HP-20 distributed by Mitsubishi Chemical K.K.) (95 ml). The resin is washed with water. The fractions containing the main product are combined and concentrated under reduced pressure. The resultant solid is crystallized from a mixture of ether and hexane to give the title compound (1.83 g). mp. 105°-107° C.

reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 15 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | 5-mercapto-1H-tetrazole-1-acetohydroxamic acid p-methoxybenzyl ester | 3 g | COC1=CC=C(CONC(CN2N=NN=C2S)=O)C=C1 | C11H13N5O3S
product | α-(5-Mercapto-1H-tetrazol-1-yl)acetohydroxamic acid | 1.83 g | SC1=NN=NN1CC(=O)NO | C3H5N5O2S
